US04801598
(a) Ethyl 4-[2-(2-methylbenzimidazol-1-yl)ethoxy]-3-ketobutanoate
Sodium hydride (1.46 g, 80% suspension in oil) was suspended in dry tetrahydrofuran (60 ml) under nitrogen. 2-Methylbenzimidazol-1-ylethanol (4.3 g) was added and the suspension was sonicated at 40° C. for 2 hours. Ethyl 4-chloroacetoacetate (4.02 g) in tetrahydrofuran (20 ml) was added dropwise and sonication continued for a further 6 hours. The reaction was poured into 1N hydrochloric acid (50 ml), the tetrahydrofuran was removed under reduced pressure and the aqueous phase washed with toluene. The aqueous phase was adjusted to pH7 with potassium carbonate and extracted with dichloromethane (2×100 ml). The organic extracts were combined, dried over magnesium sulphate and the solvent removed under reduced pressure. The residue was chromatographed on silica eluting with 5% methanol in ethyl acetate. The fractions containing the product were combined and evaporated to yield the title compound (4.4 g, 59%) as a red oil.

reactant | Sodium hydride | 1.46 g | [H-].[Na+]
reactant | 2-Methylbenzimidazol-1-ylethanol | 4.3 g | CC1=NC2=C(N1C(C)O)C=CC=C2 | C10H12N2O
reactant | Ethyl 4-chloroacetoacetate | 4.02 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Ethyl 4-[2-(2-methylbenzimidazol-1-yl)ethoxy]-3-ketobutanoate | 4.4 g, 59% | CC1=NC2=C(N1CCOCC(CC(=O)OCC)=O)C=CC=C2 | C16H20N2O4
